US06822109B2
Preparation of 9,9-bis(trimethylsilyloxymethyl)fluorene
1 g of 9,9-bis(hydroxymethyl)fluorene (4.4 mmol) was admixed with 20 ml of dichloromethane. The mixture was cooled in ice-water bath, and 1.9 ml of triethyl amine (13.2 mmol) was added thereto. Then 1.4 ml of trimethylsilyl chloride (11 mmol) was added drop-wise, and the mixture was stirred in ice-water bath for further 2 hours. The reaction mixture was washed with water, and the organic layer separated was dried over anhydrous sodium sulfate. After filtration, the filtrate was evaporated to give 1.14 g of concentrate (yield 88%). MS (EI) m/e: 370(M+).

reactant | 9,9-bis(hydroxymethyl)fluorene | 4.4 mmol, 1 g | OCC1(C2=CC=CC=C2C=2C=CC=CC12)CO | C15H14O2
reactant | triethyl amine | 13.2 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 11 mmol, 1.4 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 9,9-bis(trimethylsilyloxymethyl)fluorene | yield 88% | C[Si](OCC1(C2=CC=CC=C2C=2C=CC=CC12)CO[Si](C)(C)C)(C)C | C21H30O2Si2
